US06727249B2
(1R*,2R*,5S*,6R*)-8-Benzyl-2-[3,5-bis(trifluoromethyl)benzoyloxy]-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane
3,5-Bis(trifluoromethyl)benzoyl chloride (2.76 g, 10 mmol) was added dropwise to an ice-cold solution of (1R*,2R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol (Description 31; 3 g, 9.4 mmol), triethylamine (2 g, 20 mmol) and 4-N,N-dimethylaminopyridine (200 mg, 1.6 mmol) in dichloromethane (30 ml). The mixture was stirred at room temperature for 20 hours. The mixture was concentrated in vacuo then partitioned between ethyl acetate and brine. The organics were separated, dried (MgSO4), filtered and concentrated. The residue was chromatographed on silica gel eluting with 10 and 20% ethyl acetate/iso-hexanes to afford the title compound (4.87 g, 93%).

reactant | 3,5-Bis(trifluoromethyl)benzoyl chloride | 10 mmol, 2.76 g | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | (1R*,2R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 9.4 mmol, 3 g | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)C#N)O)C2=CC=CC=C2 | C21H22N2O
reactant | triethylamine | 20 mmol, 2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (1R*,2R*,5S*,6R*)-8-Benzyl-2-[3,5-bis(trifluoromethyl)benzoyloxy]-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octane | 4.87 g, 93% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)C#N)OC(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)C2=CC=CC=C2 | C30H24F6N2O2
